US08470859B2
5-chloro-2-imino-1-(3,4,5-trifluorobenzyl)-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 160, 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide was reacted with 1-(3,4,5-trifluorophenyl)methanamine to give the title compound.

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-(3,4,5-trifluorophenyl)methanamine | FC=1C=C(C=C(C1F)F)CN | C7H6F3N
product | 5-chloro-2-imino-1-(3,4,5-trifluorobenzyl)-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)CC1=CC(=C(C(=C1)F)F)F)=N)C(=O)N | InChI=1S/C13H9ClF3N3O.ClH/c14-7-3-8(13(19)21)12(18)20(5-7)4-6-1-9(15)11(17)10(16)2-6;/h1-3,5,18H,4H2,(H2,19,21);1H
